US08097759B2
5-Chloro-2-hydroxy-N-(4-methoxybiphenyl-3-yl)benzamide (Compound No. 166)
Using 5-chlorosalicylic acid and 3-amino-4-methoxybiphenyl as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3-amino-4-methoxybiphenyl | NC=1C=C(C=CC1OC)C1=CC=CC=C1 | C13H13NO
product | 5-Chloro-2-hydroxy-N-(4-methoxybiphenyl-3-yl)benzamide | Yield: 37.0% | ClC=1C=CC(=C(C(=O)NC=2C=C(C=CC2OC)C2=CC=CC=C2)C1)O | C20H16ClNO3
